US09428503B2
Intermediate A6: Ethyl 6-bromo-4-chloroquinoline-3-carboxylate
On a larger scale, ethyl 6-bromo-1-[(4-methoxyphenyl)methyl]-4-oxoquinoline-3-carboxylate (5765 g, 13.85 mol) was charged to the vessel with thionyl chloride (28.8 L). An exotherm from 20-26° C. was observed. DMF (4.4 mL) was added with no observed exotherm and the batch heated to 75° C. and stirred for 17 h. HPLC showed 1.3% starting material remained with 98.0% product. The reaction was concentrated in vacuo and the residue azeotroped with toluene (25 L). The resulting solid was then slurried in heptane (18.5 L) for 2.5 h, filtered and washed with heptane (3×4 L). The solid was dried under vacuum at 35° C. to give 4077 g of the desired material (93% crude yield) which contained ˜5% of ethyl 6-bromo-1-[(4-methoxyphenyl)methyl]-4-oxoquinoline-3-carboxylate in addition to ˜4% hydrolysis product by HPLC (90% pure). The crude material (4077 g) was returned to the vessel and reprocessed with thionyl chloride (14.5 L) and DMF (2.2 mL). The mixture was heated to 75° C. for 40 h. The thionyl chloride was removed in vacuo and the residue azeotroped with toluene (10 L). The residue was slurried in heptane (18 L) for ˜16 h at 20° C. The solid was collected by filtration, one portion being filtered under nitrogen and washed with heptane (3 L) to yield 2196 g of desired material (90% NMR assay, 99% by HPLC). The remainder of the batch was filtered under air and washed with heptane (3 L) to yield 1905 g of the desired material (88% NMR assay, 99% by HPLC). The yellow solids were combined for further processing (4101 g, 3653 g active, 83% yield, 99% by HPLC).

reactant | ethyl 6-bromo-1-[(4-methoxyphenyl)methyl]-4-oxoquinoline-3-carboxylate | BrC=1C=C2C(C(=CN(C2=CC1)CC1=CC=C(C=C1)OC)C(=O)OCC)=O | C20H18BrNO4
reactant | thionyl chloride | 14.5 L | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 2.2 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-bromo-4-chloroquinoline-3-carboxylate | 2196 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)Cl | C12H9BrClNO2
